US07205306B2
5-cyano-4-(5,7-dichloro-2,3-dihydro-1H-indol-1-yl)-6-(1-ethylpropylamino)-2-methylpyrimidine
4-(5,7-Dichloro-2,3-dihydro-1H-indol-1-yl)-6-(1-ethylpropylamino)-5-iodo-2-methylpyrimidine (450 mg, 0.92 mmol) was heated at 140° C. in 5 mL DMF with CuCN (111 mg, 1.23 mmol) and NaCN (84 mg, 1.70 mmol) for 6 h. The reaction was poured into 20 mL 9:1 NH4Cl/NH4OH and stirred for 20 min. The product was extracted with EtOAc (100 mL) and the EtOAc was washed with water (20 mL), brine, dried over (MgSO4) and stripped in vacuo. The residue was chromatographed on silica gel using 20% EtOAc/hexanes as eluent to give the title compound 80 mg, mp 163–165° C.

reactant | 4-(5,7-Dichloro-2,3-dihydro-1H-indol-1-yl)-6-(1-ethylpropylamino)-5-iodo-2-methylpyrimidine | 0.92 mmol, 450 mg | ClC=1C=C2CCN(C2=C(C1)Cl)C1=NC(=NC(=C1I)NC(CC)CC)C | C18H21Cl2IN4
reactant | CuCN | 1.23 mmol, 111 mg | C(#N)[Cu]
reactant | NaCN | 1.70 mmol, 84 mg | [C-]#N.[Na+]
reactant | NH4Cl NH4OH | [NH4+].[Cl-].[NH4+].[OH-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-cyano-4-(5,7-dichloro-2,3-dihydro-1H-indol-1-yl)-6-(1-ethylpropylamino)-2-methylpyrimidine | 80 mg | C(#N)C=1C(=NC(=NC1NC(CC)CC)C)N1CCC2=CC(=CC(=C12)Cl)Cl | C19H21Cl2N5
